US06509499B1
2.0 g (20.0 mmol) of calcium carbonate and 3.8 g (14.9 mmol) of 4-bromobenzenesulphonyl chloride are successively added to a mixture of 2.4 g (9.83 mmol) of 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline in 45 ml of anhydrous tetrahydrofuran. The reaction medium is stirred for 20 h at room temperature and is then refluxed for 48 h. After cooling, it is poured into 400 ml of water and extracted with methylene chloride. The combined organic extracts are dried over sodium sulphate and concentrated to dryness under reduced pressure. The oily residue obtained is purified by chromatography on a column of silica (eluent: methylene chloride) to give 1.1 g (24%) of 4-bromo-N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]benzenesulphonamide.

reactant | calcium carbonate | 20.0 mmol, 2.0 g | C([O-])([O-])=O.[Ca+2]
reactant | 4-bromobenzenesulphonyl chloride | 14.9 mmol, 3.8 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline | 9.83 mmol, 2.4 g | CC=1C=C(N)C=C(C1S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
reactant | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 4-bromo-N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]benzenesulphonamide | 1.1 g, 24% | BrC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=C(C(=C1)C)S(=O)(=O)C[N+](=O)[O-])C | C15H15BrN2O6S2
